US05728686
[1-(3,7-Dimethylxanthin-1-yl)methyl]dimethylphosphine Oxide
The title substance was prepared from 10.1 g (0.05 mol) of 3,7-dimethylxanthine sodium salt and 4-chlorobutyldimethylphosphine oxide analogously to Example 63.

reactant | 3,7-dimethylxanthine sodium salt | 0.05 mol, 10.1 g | [Na].CN1C(NC(C=2N(C=NC12)C)=O)=O
reactant | 4-chlorobutyldimethylphosphine oxide | ClCCCCP(C)(C)=O | C6H14ClOP
product | [1-(3,7-Dimethylxanthin-1-yl)methyl]dimethylphosphine Oxide | CN1C(N(C(C=2N(C=NC12)C)=O)CP(C)(C)=O)=O | C10H15N4O3P
